US07279481B2
N-(4-Fluoro-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)methanesulfonamide (E138)
The title compound was prepared in 69% yield according to the general procedure for the preparation of amides, ureas and carbamates (Method A) starting from 5-{4-[2-(5-bromo-2-fluorophenyl)ethyl]-1-piperazinyl}-2-methylquinoline and methanesulfonamide.

reactant | 5-{4-[2-(5-bromo-2-fluorophenyl)ethyl]-1-piperazinyl}-2-methylquinoline | BrC=1C=CC(=C(C1)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C)F | C22H23BrFN3
reactant | methanesulfonamide | CS(=O)(=O)N | CH5NO2S
product | N-(4-Fluoro-3-{2-[4-(2-methyl-5-quinolinyl)-1-piperazinyl]ethyl}phenyl)methanesulfonamide | 69% yield | FC1=C(C=C(C=C1)NS(=O)(=O)C)CCN1CCN(CC1)C1=C2C=CC(=NC2=CC=C1)C | C23H27FN4O2S
